US07087626B2
4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-7-carboxylic acid
Lithium hydroxide monohydrate (0.65 g, 15.6 mmol) is added to a solution of 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-7-carboxylic acid methyl ester (1.44 g, 3.89 mmol) in 2:1 tetrahydrofuran/water (30 mL), stirred at room temperature for 18 h, and concentrated in vacuo. The residue is purified by SCX resin, (2 N ammonia in methanol), to yield the title compound, 1.22 g (88%), as a tan solid.

reactant | Lithium hydroxide monohydrate | 15.6 mmol, 0.65 g | O.[OH-].[Li+]
reactant | 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-7-carboxylic acid methyl ester | 3.89 mmol, 1.44 g | COC(=O)C1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C22H18N4O2
solvent | tetrahydrofuran water | 30 mL | O1CCCC1.O
product | 4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-7-carboxylic acid | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)C(=O)O | C21H16N4O2
